US04652584
To a round bottom flask under N2 was added 14.2 g (0.296 mole) of sodium hydride, 50% in oil. The NaH was washed twice with hexane, and 33.15 g (0.205 mole) of m-trifluoromethylphenol in 1 liter of toluene was added. After five minutes 51.9 g (0.205 mole) of iodine was added all at once, and the solution allowed to stir overnight. The reaction was poured into 3N HCl, ether added, and the separated organic layer washed with water, brine and dried with MgSo4. The solvent was evaporated in vacuo to give 60.3 g (100% yield) of 2-iodo-5-trifluoromethylphenol, mp 36°-38° C.

reactant | sodium hydride | 0.296 mole, 14.2 g | [H-].[Na+]
reactant | m-trifluoromethylphenol | 0.205 mole, 33.15 g | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
reactant | iodine | 0.205 mole, 51.9 g | II | I2
reactant | HCl | 3N | Cl | ClH
solvent | hexane | CCCCCC | C6H14
solvent | toluene | 1 liter | C1(=CC=CC=C1)C | C7H8
solvent | ether | CCOCC | C4H10O
product | 2-iodo-5-trifluoromethylphenol | 60.3 g, 100% yield | IC1=C(C=C(C=C1)C(F)(F)F)O | C7H4F3IO
